US08604034B2
To generate the acid chloride, 3-methyl-1,2-oxazole-4-carboxylic acid (95.53 mg, 0.75 mmol) was dissolved in CH2Cl2 (10 mL). Oxalyl chloride (0.22 mL, 2.63 mmol) and a drop of DMF were added at 0° C. The ice bath was removed and the mixture stirred for 1 h before the solvent and the unreacting oxalyl chloride was removed with a stream of nitrogen. The residue was further dried in vacuo. 10a-[4-(difluoromethoxy)phenyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (60 mg, 0.19 mmol) was dissolved in pyridine (4 ml) and the solution added to the previously generated acid chloride in pyridine (1 mL) at 0° C. The ice bath was removed after 15 min and the mixture stirred at room temperature for 18 h. LCMS analysis showed only a trace amount of product. Further 4 equivalent of acid chloride were prepared as described above and added to the reaction mixture. The resultant mixture was then heated at 50° C. until completion (28 h, monitored by LCMS). The resultant suspension was then concentrated in vacuo and the residue partitioned between CH2Cl2 (20 mL) and a saturated aqueous solution of NaHCO3 (10 mL). The organic layers were washed with further a saturated aqueous solution of NaHCO3 (10 mL) and brine (5 mL), dried (MgSO4), filtered and concentrated in vacuo to give a yellow residue. This residue was purified by flash column chromatography (Biotage SP4, 12 g cartridge, 70-100% EtOAc gradient in n-hexanes) to give 10a-[4-(difluoromethoxy)phenyl]-1-[(3-methyl-1,2-oxazol-4-yl)carbonyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one compound (1) as a white solid (42 mg, yield 52%).

reactant | 3-methyl-1,2-oxazole-4-carboxylic acid | 0.75 mmol, 95.53 mg | CC1=NOC=C1C(=O)O | C5H5NO3
reactant | Oxalyl chloride | 2.63 mmol, 0.22 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 10a-[4-(difluoromethoxy)phenyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 0.19 mmol, 60 mg | FC(OC1=CC=C(C=C1)C12N(C(C=3N(C1)C=CC3)=O)CCN2)F | C16H15F2N3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 10a-[4-(difluoromethoxy)phenyl]-1-[(3-methyl-1,2-oxazol-4-yl)carbonyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 42 mg, yield 52% | FC(OC1=CC=C(C=C1)C12N(C(C=3N(C1)C=CC3)=O)CCN2C(=O)C=2C(=NOC2)C)F | C21H18F2N4O4
